US07429675B2
(ii) Methyl 3-(4-{2-[4-(benzyloxy)phenoxy]ethyl}phenyl)-2-chloropropanoate
Triphenylphosphine (2.4 g, 9 mmol) was added to a solution of methyl 2-chloro-3-[4-(2-hydroxyethyl)phenyl]propanoate (2.1 g, 8.5 mmol) and 4-(benzyloxy)phenol (1.7 g, 8 mmol) in 20 ml toluene under nitrogen atmosphere. The solution was warmed to 55° C. and diisopropyl azodicarboxylate (1.8 g, 9 mmol) was added. The reaction mixture was stirred at 55° C. overnight. The mixture was allowed to cool and the solvent was evaporated under reduced pressure. The crude product was purified by flash chromatography using a 80:20 mixture of heptane and EtOAc as eluent to yield 2.28 g of the desired product (yield 61%) as colourless crystals.

reactant | Triphenylphosphine | 9 mmol, 2.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 2-chloro-3-[4-(2-hydroxyethyl)phenyl]propanoate | 8.5 mmol, 2.1 g | ClC(C(=O)OC)CC1=CC=C(C=C1)CCO | C12H15ClO3
reactant | 4-(benzyloxy)phenol | 8 mmol, 1.7 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | diisopropyl azodicarboxylate | 9 mmol, 1.8 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 3-(4-{2-[4-(benzyloxy)phenoxy]ethyl}phenyl)-2-chloropropanoate | 2.28 g, yield 61% | C(C1=CC=CC=C1)OC1=CC=C(OCCC2=CC=C(C=C2)CC(C(=O)OC)Cl)C=C1 | C25H25ClO4
